US07888351B2
B) 3-(3-Methyl-2,5-dioxo-imidazolidin-1-ylmethyl)-benzoic acid
To 3-(3-Methyl-2,5-dioxo-imidazolidin-1-ylmethyl)benzoic acid methyl ester (100 mg, 0.381 mmol) in THF/water (2/1, 2 mL) is added lithium hydroxyde monohydrate (24 mg, 0.572 mmol) and the reaction is stirred at rt during 16 h before quenching with water and ethylacetate. The separated aqueous phase is acidified to pH 2 with an aqueous 1N HCl solution, extracted with ethylacetate and the organic phase is dried and evaporated to give the title compound.

reactant | 3-(3-Methyl-2,5-dioxo-imidazolidin-1-ylmethyl)benzoic acid methyl ester | 0.381 mmol, 100 mg | COC(C1=CC(=CC=C1)CN1C(N(CC1=O)C)=O)=O | C13H14N2O4
reactant | lithium | 0.572 mmol, 24 mg | [Li] | Li
solvent | tetrahydrofuran water | 2 mL | O1CCCC1.O
product | 3-(3-Methyl-2,5-dioxo-imidazolidin-1-ylmethyl)-benzoic acid | CN1C(N(C(C1)=O)CC=1C=C(C(=O)O)C=CC1)=O | C12H12N2O4
